US07888440B2
4-Ethyl-1-methyl-2,6,7-trioxa-bicyclo[2.2.2]octane
Trimethylolpropane (268.0 g, 2.0 mol), triethyl orthoacetate (356.4 g, 2.20 mol) and toluene sulfonic acid (4.0 g) were charged into a oven dried round bottom flask equipped with a stirring bar, distillation head and under nitrogen. The resulting solution was heated until the theoretical amount od ethanol was collected. The reaction was cooled to room temperature. Fractional vacuum distillation afforded the product as a water clear liquid, boiling point 62.8-71.2° C. at 0.78-1.80 torr. Yield: 276.0 g (87.3%)

reactant | Trimethylolpropane | 2.0 mol, 268.0 g | C(O)C(CC)(CO)CO | C6H14O3
reactant | triethyl orthoacetate | 2.20 mol, 356.4 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | toluene sulfonic acid | 4.0 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | 4-Ethyl-1-methyl-2,6,7-trioxa-bicyclo[2.2.2]octane | C(C)C12COC(OC1)(OC2)C | C8H14O3
